US07728025B2
(Step 3) Production of benzyl (2R,4R)-4-hydroxy-2-methoxy-methyl-carbamoyl-pyrrolidine-1-carboxylate
7.46 ml of tetrabutylammonium fluoride (1 M tetrahydrofuran solution) was added to a tetrahydrofuran (30 ml) solution of 2.04 g of benzyl (2R,4R)-4-(tert-butyl-diphenyl-silanyloxy)-2-(methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylate obtained in (step 2), and the reaction liquid was stirred at room temperature for 20 minutes. The solvent of the reaction liquid was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/3) to obtain the entitled compound.

reactant | tetrabutylammonium fluoride | 1 M, 7.46 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | benzyl (2R,4R)-4-(tert-butyl-diphenyl-silanyloxy)-2-(methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylate | 2.04 g | C(C)(C)(C)[Si](O[C@@H]1C[C@@H](N(C1)C(=O)OCC1=CC=CC=C1)C(N(C)OC)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H38N2O5Si
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | benzyl (2R,4R)-4-hydroxy-2-methoxy-methyl-carbamoyl-pyrrolidine-1-carboxylate | O[C@@H]1C([C@@](N(C1)C(=O)OCC1=CC=CC=C1)(OC)C(N)=O)C | C15H20N2O5
